US07888374B2
4,6-Diamino-2-isopropoxy-nicotinonitrile
A heavy walled, sealable tube suitable for microwave heating was charged with 6 mL of 2-propanol and 150 mg (6.5 mmol) of sodium. The mixture was stirred at 95° C. until all of the sodium had reacted (15 minutes), then 650 mg (3.05 mmol) of 2-bromo-4,6-diaminonicotinonitrile was added. The tube was sealed, and the mixture was heated with a microwave apparatus at 150° C. for 10 minutes then cooled and diluted with 30 mL of water. The precipitate was collected, washed with water until pH=7, then dried under reduced pressure at 95° C. to provide 312 mg (53%) of pale yellow crystals.

reactant | 2-propanol | 6 mL | CC(C)O | C3H8O
reactant | sodium | 6.5 mmol, 150 mg | [Na] | Na
reactant | 2-bromo-4,6-diaminonicotinonitrile | 3.05 mmol, 650 mg | BrC1=C(C#N)C(=CC(=N1)N)N | C6H5BrN4
solvent | water | 30 mL | O | H2O
product | 4,6-Diamino-2-isopropoxy-nicotinonitrile | 312 mg, 53% | NC1=CC(=NC(=C1C#N)OC(C)C)N | C9H12N4O
